US07524882B2
Step 1. 2-Chloro-4-(2,2,2-trifluoro-ethyl)phenol
1-Benzyloxy-2-chloro-4-(2,2,2-trifluoro-ethyl)benzene (4.0 g, 13.0 mmol) was dissolved in dichloromethane (50 mL) and cooled to −78° C. A solution of boron tribromide (1.0 M in CH2Cl2, 14.3 mL, 14.3 mmol) was added. The reaction mixture was warmed to 0° C., diluted with dichloromethane and washed with brine. After removal of solvent, the residue was chromatographed on silica gel eluting with 9:1 hexane:ethyl acetate to give the title compound.

reactant | 1-Benzyloxy-2-chloro-4-(2,2,2-trifluoro-ethyl)benzene | 13.0 mmol, 4.0 g | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)CC(F)(F)F)Cl | C15H12ClF3O
reactant | boron tribromide | 14.3 mmol, 1.0 M, 14.3 mL | B(Br)(Br)Br | BBr3
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
product | 2-Chloro-4-(2,2,2-trifluoro-ethyl)phenol | ClC1=C(C=CC(=C1)CC(F)(F)F)O | C8H6ClF3O
